US07601856B2
tert-Butylisocyanate (0.55 g, 5.5 mmol) was added to a cooled (0° C.) solution of 6,7,8,9-tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol) in tetrahydrofuran (20 mL). The reaction mixture was stirred for 10 minutes at 0° C. and then allowed to warm to ambient temperature for 5 hours. An additional portion of tert-butylisocyanate (0.65 mL) was added the reaction mixture was stirred overnight. The reaction was incomplete, so pyridine (10 mL) was added and the reaction mixture was heated to reflux for 4.5 hours and then concentrated under reduced pressure. The crude material was dissolved in ethyl acetate and washed with 1 N HCl, water, and brine, dried (Na2SO4) and concentrated. The crude material was recrystallized from acetonitrile to provide 1-tert-butyl-3-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-urea (0.71 g). Mp 310-312° C. (DEC); Anal. Calcd. for C17H22N2O2: C, 71.30; H, 7.74; N, 9.78; Found: C, 71.18; H, 7.84; N, 9.79.

reactant | tert-Butylisocyanate | 5.5 mmol, 0.55 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | 6,7,8,9-tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1=C(C=CC=2OC3=C(C21)CCCC3)N | C12H13NO
reactant | tert-butylisocyanate | 0.65 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-tert-butyl-3-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-urea | 0.71 g | C(C)(C)(C)NC(=O)NC1=CC2=C(OC3=C2CCCC3)C=C1 | C17H22N2O2
